*

.subckt Fake


.include "/Applications/KiCad/KiCad.app/Contents/SharedSupport/symbols/Simulation_SPICE.sp"
.model __Q2 NPN
.model __Q1 PNP
.model __D1 D
U100 Net-_U100-OUT_ Net-_U100-IN_ IRL_BUFFER
R22 OUTPUT Net-_U20-+_ 124
XU20 Net-_U20-+_ Net-_U20--_ unconnected-_U20-V+-Pad3_ unconnected-_U20-V--Pad4_ OUTPUT kicad_builtin_opamp
R20 Net-_U100-OUT_ Net-_U20--_ 234
C20 unconnected-_C20-Pad1_ unconnected-_C20-Pad2_ 23
R21 unconnected-_R21-Pad1_ unconnected-_R21-Pad2_ 345
Q2 +5V /bthing2 0 NPN
Q1 +5V /bthing 0 PNP
R10 INPUT Net-_D1-K_ 345
C10 Net-_D1-K_ 0 45
D1 0 Net-_D1-K_ __D1
R11 +5V Net-_U10-+_ 45
R12 Net-_U100-IN_ Net-_U10-+_ 346
XU10 Net-_U10-+_ Net-_D1-K_ unconnected-_U10-V+-Pad3_ unconnected-_U10-V--Pad4_ Net-_U100-IN_ kicad_builtin_opamp

.ends
